US09126950B2
In a 25 ml, 3-neck RBF equipped with a calcium chloride guard tube, to a solution of tert-butyl (5-fluoro-2-((4-(2-methoxyethoxy)phenyl)amino)pyrimidin-4-yl)(3-(N-hydroxyacrylamido)phenyl)carbamate (0.250 g) in DCM (10 ml) was added trifluoroacetic acid (5.0 ml) drop wise into the reaction mixture at 0° C. The reaction mixture was stirred at 0° C. for 15 minutes and then at room temperature for 30 minutes. The reaction was monitored by TLC using hexane:ethyl acetate (3:7) as mobile phase. After completion of the reaction, the reaction mixture was quenched in water and neutralized with sodium bicarbonate. Product was extracted into DCM and the organic layer was washed with brine, dried over sodium sulfate and concentrated completely under reduce pressure at 40° C. Crude material was purified by preparative-HPLC to give 8.3 mg of N-(3-((5-fluoro-2-((4-(2-methoxyethoxy)phenyl)amino)pyrimidin-4-yl)amino)phenyl)-N-hydroxyacrylamide. 1H NMR: DMSO-d6 (400 MHz): 3.236-3.208 (t, 2H, J=8), 3.356 (s, 3H), 3.628-3.250 (t, 2H, J=4.4), 4.018-4.040 (t, 2H, J=4.4), 4.488-4.528 (t, 2H, J=8), 6.798 (d, 2H, J=8.8), 7.35 (d, 2H, J=6.4), 7.72 (d, 2H, J=6), 7.84 (s, 1H), 8.085 (d, 1H, J=3.6), 9.011 (s, 1H), 9.457 (s, 1H).

reactant | tert-butyl (5-fluoro-2-((4-(2-methoxyethoxy)phenyl)amino)pyrimidin-4-yl)(3-(N-hydroxyacrylamido)phenyl)carbamate | 0.250 g | FC=1C(=NC(=NC1)NC1=CC=C(C=C1)OCCOC)N(C(OC(C)(C)C)=O)C1=CC(=CC=C1)N(C(C=C)=O)O | C27H30FN5O6
reactant | trifluoroacetic acid | 5.0 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
product | N-(3-((5-fluoro-2-((4-(2-methoxyethoxy)phenyl)amino)pyrimidin-4-yl)amino)phenyl)-N-hydroxyacrylamide | 8.3 mg | FC=1C(=NC(=NC1)NC1=CC=C(C=C1)OCCOC)NC=1C=C(C=CC1)N(C(C=C)=O)O | C22H22FN5O4
